US09023883B2
A mixture of 3-iodo-1-(oxan-2-yl)-1H-pyrazole-4-carbaldehyde (3.2 g, 10.45 mmol, 1.00 equiv), tert-butyl N-[2-(methylamino)ethyl]carbamate (2.2 g, 12.63 mmol, 1.21 equiv) and NaBH(OAc)3 (6.65 g, 31.38 mmol, 3.00 equiv) in dichloroethane (30 mL) was stirred for 2 h at room temperature. The reaction was quenched with 50 mL of saturated aqueous sodium bicarbonate solution. The resulting mixture was extracted with 3×200 mL of dichloromethane. The combined organic layers was dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was purified on a silica gel column eluted with 30-100% ethyl acetate in petroleum ether to give 4.05 g (83%) of tert-butyl (2-(((3-iodo-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-4-yl)methyl)(methyl)amino)ethyl)carbamate as a light yellow oil. 1H NMR (300 MHz, CDCl3): δ 7.48 (s, 1H), 5.35-5.30 (m, 1H), 4.13-4.03 (m, 1H), 3.71-3.63 (m, 1H), 3.36 (s, 2H), 3.26-3.25 (m, 2H), 2.52-2.49 (m, 2H), 2.21 (s, 3H), 2.09-2.01 (m, 3H), 1.68-1.58 (m, 3H), 1.44 (s, 9H) ppm. LCMS (method C, ESI): RT=0.58 min, m/z=465.0 [M+H]+.

reactant | 3-iodo-1-(oxan-2-yl)-1H-pyrazole-4-carbaldehyde | 10.45 mmol, 3.2 g, 1.00 equiv | IC1=NN(C=C1C=O)C1OCCCC1 | C9H11IN2O2
reactant | tert-butyl N-[2-(methylamino)ethyl]carbamate | 12.63 mmol, 2.2 g, 1.21 equiv | CNCCNC(OC(C)(C)C)=O | C8H18N2O2
reactant | NaBH(OAc)3 | 31.38 mmol, 6.65 g, 3.00 equiv | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | dichloroethane | 30 mL | ClC(C)Cl | C2H4Cl2
product | tert-butyl (2-(((3-iodo-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-4-yl)methyl)(methyl)amino)ethyl)carbamate | 4.05 g, 83% | IC1=NN(C=C1CN(CCNC(OC(C)(C)C)=O)C)C1OCCCC1 | C17H29IN4O3
